2107-03-01 02:31:00 Physician Attending Progress Note
Chief Complaint: UGIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81M BRBPR [**2-18**] admitted, EGD showed gastric and esophageal varices.
   Received [**12-22**] U PRBCs, put on PPI, no octreotide and stabilized. Was to
   be discharged but had another episode of BRBPR today. Repeat EGD again
   showed varices with fresh blood in stomach. Transferred to consider
   TIPS. Received blood, BP relatively stable.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2107-3-1**] 01:13 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-3-1**] 01:13 AM
   Other medications:
   Changes to medical and family history:
   cirrhosis
   varices
   ? EtOH abuse
   COPD
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: BRBPR
   Flowsheet Data as of  [**2107-3-1**] 02:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (96.9
   HR: 65 (58 - 65) bpm
   BP: 121/45(65) {120/45(27) - 129/60(77)} mmHg
   RR: 20 (20 - 25) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                    731 mL
                                                                     79 mL
   PO:
             TF:
   IVF:
                                                                     31 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                    175 mL
                                                                      0 mL
   Urine:
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    556 mL
                                                                     79 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///21/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: mild erythem RLE
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   10.4 g/dL
   150 K/uL
   106 mg/dL
   1.4 mg/dL
   21 mEq/L
   5.9 mEq/L
   37 mg/dL
   112 mEq/L
   143 mEq/L
   32.6 %
   7.4 K/uL
        [image002.jpg]
                             [**2107-2-28**]  09:29 PM
   WBC
   7.4
   Hct
   32.6
   Plt
   150
   Cr
   1.4
   Glucose
   106
   Other labs: PT / PTT / INR:14.4/26.2/1.2, ALT / AST:40/72, Alk Phos / T
   Bili:109/1.3, Albumin:2.8 g/dL, LDH:529 IU/L, Ca++:8.0 mg/dL, Mg++:2.2
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 UGIB, blood loss anemia, varices, cirrhosis - received 2 U PRBCs
   today, follow Hct, on octreotide, CTX prophylaxis, RUQ U/S, to be seen
   by liver, PIV access OK
   renal insufficiency - follow
   hypothyroid - continue supplement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-2-28**] 08:45 PM
   20 Gauge - [**2107-2-28**] 08:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2107-03-01 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2107-2-28**] 10:18 PM
   3 additional dark/maroon stool overnight (appeared to nurse like "old
   blood")
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2107-3-1**] 01:13 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-3-1**] 01:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-3-1**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.9
C (96.7
   HR: 64 (58 - 65) bpm
   BP: 126/47(67) {120/44(27) - 133/60(77)} mmHg
   RR: 23 (16 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                    731 mL
                                                                    113 mL
   PO:
             TF:
   IVF:
                                                                     31 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                    175 mL
                                                                    525 mL
   Urine:
                                                                    175 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    556 mL
                                                                   -413 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///23/
   Physical Examination
   General: Alert, oriented, no acute distress, voice hoarse
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: Supple, JVP not elevated, no LAD, former RIJ site c/d/i
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Soft, non-tender, obese, no fluid wave, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   GU: No foley
   Ext: Warm, well perfused, 2+ pulses, 2+ BLE edema to knees extending
   posteriorly to thighs
   Skin: No jaundice, spider angiomas, or palmar erythema.  Skin on LLE
   with mild, poorly defined erythema and no tenderness.
   Neuro: AAO x 3, nonfocal, no asterixis.
   Labs / Radiology
   135 K/uL
   10.0 g/dL
   104 mg/dL
   1.4 mg/dL
   23 mEq/L
   5.0 mEq/L
   36 mg/dL
   113 mEq/L
   145 mEq/L
   30.4 %
   6.8 K/uL
        [image002.jpg]
                             [**2107-2-28**]  09:29 PM
                             [**2107-3-1**]  03:44 AM
   WBC
   7.4
   6.8
   Hct
   32.6
   30.4
   Plt
   150
   135
   Cr
   1.4
   1.4
   Glucose
   106
   104
   Other labs:
   PT / PTT / INR:14.2/26.0/1.2,
   ALT / AST:38/54,
   Alk Phos / T Bili:104/0.9,
   Differential-Neuts:71.0 %, Band:0.0 %, Lymph:19.0 %, Mono:5.0 %,
   Eos:4.0 %,
   Albumin:2.8 g/dL, LDH:390 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   81 yo man with recent diagnosis of liver cirrhosis c/b varices
   transferred from OSH for recurrent variceal bleed.
   .
   # UGIB: On EGD from [**2-18**] and [**2-28**], pt found to have gastric varices
   which appear to be the likely source of his recurrent bleed. S/p [**2-21**]
   units pRBC over OSH course; no active bleeding seen on OSH EGD today
   and currently HD stable with appropriate Hct response. Still with tarry
   stools but likely residual from prior bleeding.  Transferred for
   consideration of TIPS procedure; not encephalopathic and without
   profound coagulopathy but may be limited by age. Patient with multiple
   episodes of dark stool overnight but ~stable Hct at 30 this morning.
   - NPO for now
   - Active T&S, 2 units cross-matched, large bore PIV x 2, trend Hct q6h
   - Transfuse for goal Hct <25 due to risk of rebound bleed with portal
   hypertension
   - Octreotide gtt x 5 days
   - IV PPI [**Hospital1 **]
   - Ppx with ceftriaxone
   - follow serologies
   - Holding nadolol for now; avoid IVF if possible
 if SBPs continue
   120s and bleeding resolves, would restart nadolol
   - RUQ ultrasound with doppler to evaluate portal vein patency
   - Appreciate Liver recs; if patient with recurrent hematemesis or brisk
   bleed, will page for urgent evaluation
   .
   # Liver cirrhosis: Recent diagnosis based on radiographic findings in
   work-up of LE edema with evidence of portal hypertension given
   esophageal and gastric varices.  Synthetic function slightly impaired
   with mildly elevated INR and low albumin; MELD score 13 -> 12.  Given
   history of alcohol abuse and AST/ALT (although only minimally elevated
   now), etiology may be alcoholic.  Ddx includes hepatitis B or C,
   autoimmune hepatitis, hemochromatosis, primary biliary cirrhosis,
   Wilson's disease, Budd-Chiari.  Pt used to take Tylenol PM but has not
   taken this in the past month; again, labs do not suggest fulminant
   liver failure.
   - Trend LFTs, coags
   - Add on hep serologies, [**Doctor First Name **], anti-SM Ab, AMA, iron panel,
   ceruloplasmin (pending)
   - Add on AFP
   - RUQ ultrasound as above
   - Appreciate Liver recs
   - SW consult for substance abuse/coping
   .
   # LE edema: Likely due to hypoalbuminemia and portal hypertension in
   setting of liver failure. No DVT on OSH LENIs.  No overt evidence of
   cellulitis; pt treated with vanc/ceftriaxone for unclear duration at
   OSH. TSH 0.39.  Albumin 2.8.
   - Hold antibiotics for cellulitis for now
   - holding diuretics in setting of bleed, when resolves would restart
   .
   # ARF: Cr 1.17 at OSH on [**2-25**].  Here, Cr is 1.4.  Hepatorenal syndrome
   possible but clinical picture not c/w severe cirrhosis.  [**Month (only) 8**] be
   secondary to recent diuresis although pt was reportedly taking these
   medications prior to admission.  Was noted to be relatively hypotensive
   in setting of bleed but without other objective signs of hypoperfusion.
   Cr stable at 1.4 this morning. Urine lytes most consistent with
   intrarenal process; negative urine eosinophils make AIN less likely.
   Possibly ATN
 will monitor.
   - Trend Cr
   - Urine sediment examination if possible
   - Renally dose meds, avoid nephrotoxins
   .
   # Thrombocytopenia: Pt reportedly with h/o thrombocytopenia; 114 today
   at OSH and 150 here; down to 135 this morning. Likely related to
   cirrhosis/splenic sequestration.
   - Trend platelet count
   - consider transfuse for <30 with active bleeding
   .
   # Hoarse voice: Pt is s/p short intubation course but reports normal
   voice until today.  No cough, no e/o airway compromise. Did undergo EGD
   today and has been NPO all day with dry mm on exam. TSH WNL.
   - Consider ENT evaluation
   .
   # Hypothyroidism:
   - Cont levothyroxine (112mcg po ~> 50mcg IV for now); unclear why pt
   getting 125 mcg IV at OSH (though this may explain low-normal TSH)
   .
   # Thyroid nodule: Continue outpatient monitoring
   .
   # FEN: No IVF, replete electrolytes, will discuss advancing diet with
   liver service
   # Prophylaxis: Pneumoboots
   # Access: PIV x 3 (22g x 1, 18g x 2)
   # Communication: Patient
   # Code:  Full (discussed with patient). HCP is wife, [**Name (NI) 4670**]
   ([**Telephone/Fax (1) 12579**]).
   # Disposition: Call out to Liver service
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-2-28**] 08:45 PM
   20 Gauge - [**2107-2-28**] 08:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-03-01 11:35:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81 yo man had bloody BM and hematemesis about 10 days ago.  Went the
   [**Hospital **] hospital, where he was intubated for EGD, found to have
   esophageal and gastric varices.  Extubated 2 days later.  Went to
   floor.  Yesterday morning had an episode of BRBPR.  Hematocrit
   dropped.  EGD with grade three varices in esophagus.  Transferred to
   [**Hospital1 5**].  In MICU he was well appearing.  Had three episodes of maroon
   stool.
   24 Hour Events:
 EKG - At [**2107-2-28**] 10:18 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2107-3-1**] 01:13 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-3-1**] 01:13 AM
   Other medications:
   synthroid
   spiriva
   flovent
   Changes to medical and family history:
   h/o heavy ETOH use.
   LE edema 1 month ago.
   hypothyroidism.
   Left thyroid nodule.
   Meds on trasnfer.
   Synthroid
   advair
   octreatide
   nadolol
   zosyn
   levoxyl
   Shx:  [**12-22**] glasses wine and 1-2 beers with golf, but no heavy drinking.
   quit smoking.
   Lives with wife.
   denies
   [**Name2 (NI) **].
   Father died at 78 with leukemia
   brother with cirrhosis and lung cancer
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-3-1**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.7
C (96.3
   HR: 64 (58 - 65) bpm
   BP: 140/55(78) {120/44(27) - 140/60(78)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                    734 mL
                                                                    164 mL
   PO:
             TF:
   IVF:
                                                                     34 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                    175 mL
                                                                    875 mL
   Urine:
                                                                    175 mL
                                                                    875 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    559 mL
                                                                   -711 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, no asteriskis
   Labs / Radiology
   10.0 g/dL
   135 K/uL
   104 mg/dL
   1.4 mg/dL
   23 mEq/L
   5.0 mEq/L
   36 mg/dL
   113 mEq/L
   145 mEq/L
   30.4 %
   6.8 K/uL
        [image002.jpg]
                             [**2107-2-28**]  09:29 PM
                             [**2107-3-1**]  03:44 AM
   WBC
   7.4
   6.8
   Hct
   32.6
   30.4
   Plt
   150
   135
   Cr
   1.4
   1.4
   Glucose
   106
   104
   Other labs: PT / PTT / INR:14.2/26.0/1.2, ALT / AST:38/54, Alk Phos / T
   Bili:104/0.9, Differential-Neuts:71.0 %, Band:0.0 %, Lymph:19.0 %,
   Mono:5.0 %, Eos:4.0 %, Albumin:2.8 g/dL, LDH:390 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)   Variceal
   bleed.  Responded appropriately to 2U PRBC.
   had additional episode of melena this morning.
   Anemia:  follow Hct.
   cirrhosis:  continue ceftriaxone for prophylaxis.  Will discuss with
   hepatology about next step.
   check hepatitis serologies to work up cause of cirrhosis.
   RUQ U/S pending.
   acute renal failure:  making good urine output.  unclear what his
   baseline is.
   voice hoarseness:  will get ENT to evaluate.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-2-28**] 08:45 PM
   20 Gauge - [**2107-2-28**] 08:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2107-03-02 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2107-3-1**] 09:05 AM
   - Continued to have intermittent episodes of maroon stool, around 1AM
   had episode 150cc BRBPR. NGT lavage returned gross blood, which diluted
   with flushes of 300ml. Discussed with liver service ([**First Name8 (NamePattern2) 164**] [**Last Name (NamePattern1) 2728**]).
   Discussed with IR, plan for TIPS today. Made NPO. Stat HCT from 31.9 to
   31.2. Crossmatched for 4U.
   - Early evening complaining of increasing shortness of breath, possibly
   more stridorous, crackles at bases. CXR consistent with mild volume
   overload. IVF d/c, given 20IV lasix, put on humidified oxygen and given
   ice chips/sips with improvement in symptoms.
   - Sodium trending up to 147 started on D5W O/N.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2107-3-2**] 12:01 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2107-3-1**] 03:30 PM
   Pantoprazole (Protonix) - [**2107-3-2**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-3-2**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 67 (59 - 71) bpm
   BP: 125/39(61) {99/35(54) - 140/79(84)} mmHg
   RR: 22 (16 - 29) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                    407 mL
                                                                    273 mL
   PO:
             TF:
   IVF:
                                                                    407 mL
                                                                    273 mL
   Blood products:
   Total out:
                                                                  2,555 mL
                                                                    350 mL
   Urine:
                                                                  2,555 mL
                                                                    200 mL
   NG:
   Stool:
   150 mL
   Drains:
   Balance:
                                                                 -2,148 mL
                                                                    -78 mL
   Respiratory support
   O2 Delivery Device: 4L  Nasal cannula
   SpO2: 95%
   Physical Examination
   General: Alert, oriented, no acute distress, dysphonia
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: Supple, JVP difficult to assess
   Lungs: unlabored respirations, bibasilar crackles (improved from
   yesterday)
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Soft, NTND, positive bowel sounds
   GU: No foley
   Ext: Warm, well perfused, 2+ pulses, 2+ BLE edema to knees
   Skin: No jaundice, spider angiomas, or palmar erythema.
   Neuro: AAO x 3, nonfocal, no asterixis.
   Labs / Radiology
   180 K/uL
   10.0 g/dL
   109 mg/dL
   1.2 mg/dL
   24 mEq/L
   4.2 mEq/L
   32 mg/dL
   114 mEq/L
   147 mEq/L
   31.2 %
   9.1 K/uL
        [image002.jpg]
                             [**2107-2-28**]  09:29 PM
                             [**2107-3-1**]  03:44 AM
                             [**2107-3-1**]  10:24 AM
                             [**2107-3-1**]  03:19 PM
                             [**2107-3-1**]  08:30 PM
                             [**2107-3-2**]  01:45 AM
   WBC
   7.4
   6.8
   9.1
   Hct
   32.6
   30.4
   33.0
   30.0
   31.9
   31.2
   Plt
   150
   135
   180
   Cr
   1.4
   1.4
   1.2
   Glucose
   106
   104
   109
   Other labs: PT / PTT / INR:14.9/25.3/1.3,
   ALT / AST:28/37, Alk Phos / T Bili:95/0.7, Fibrinogen:316 mg/dL,
   Albumin:2.8 g/dL, LDH:390 IU/L
   Differential-Neuts:71.0 %, Band:0.0 %, Lymph:19.0 %, Mono:5.0 %,
   Eos:4.0 %,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   [**Doctor First Name **]: negative, AMA: negative, Smooth: positive (1:20), AFB: 27.9,
   Hepatitis studies: pending, ceruloplasmin: pending
   Abdominal U/S:
   1. Patent hepatic vasculature.
   2. Nodular hepatic architecture with no focal liver lesion identified.
   3. Small amount of sludge and gallstones. No signs of cholecystitis.
   4. Mild right renal fullness of undetermined etiology.
   5. Splenomegaly.
   6. Trace of ascites in the perihepatic space.
   Assessment and Plan
   81M with cirrhosis, esophageal and gastric varices with recurrent
   variceal bleed transferred for TIPS evaluation.
   # Upper GI Bleed:  Patient with BRBPR and hematemesis, EGD on [**2-18**] and
   [**2-28**] found to have grade III esophageal varices and gastric varices,
   latter of which were thought to be source of bleeding.  Since transfer
   has had intermittent maroon stools and last night episode of BRBPR
   (150cc) with positive NGT lavage concerning for upper GI bleed. He has
   remained hemodynamically stable with stable hematocrit in the low
   thirties.  Discussed with liver and IR overnight, plan for TIPS
   procedure today.
   - NPO for now, f/u with IR for post procedure diet limitations (if any)
   - 2 large bore PIV (18)
   - active type and screen, crossmatch for 4 units
   - Monitor HCT Q6hr and transfuse for HCT drop >5 or HCT <25
   - Octreotide gtt
   - IV PPI [**Hospital1 **]
   - continue ceftriaxone
   - continue to hold nadolol in setting of active GI bleed
   - coordinate with IR regarding TIPS; likely will go down this morning.
   - Hepatology recs
   .
   # Liver cirrhosis:  Patient without history of ascites, jaundice, or
   hepatic encephalopathy but with evidence of portal hypertension given
   gastric and esophageal varices.  Mildly impaired synthetic function
   with elevated INR and low albumin (MELD 13).  Potential etiologies
   include alcoholic, auto-immune, hemochromatosis, primary biliary
   cirrhosis, [**Last Name (un) 12611**]
s disease.  Elevated AFP could be concerning for
   malignancy although no evidence of mass on ultrasound.
   - f/u hepatitis serologies
   - f/u ceruloplasmin
   - f/u liver recs
   - concerning increased AFP; consider additional imaging with CT when
   patient stable.
   .
   #Shortness of breath:  Likely multifactorial.  Patient with peripheral
   edema in setting of hypoalbuminemia, bibasilar crackles, mild pulmonary
   edema on imaging consistent with volume overload.  Possible upper
   airway obstruction with questionable stridor and dysphonia following
   recent intubation, very dry mouth as NPO. Also history of COPD that
   maybe contributing to poor baseline. Anemia may also be contributing.
   No evidence of infectious process as afebrile, normal white count, no
   infiltrate on imaging.
   - continue ipratropium nebs prn
   -continue albuterol nebs prn
   -humidified O2/ice chips with improvement of hoarseness
   -consider ENT evaluation if hoarseness persists
   - cautious use of diuretics in setting of GI bleed; re-evaluate volume
   status/oxygen requirement
   .
   #Hypernatremia:  Sodium elevated to 147 this AM likely due to decreased
   access to free water in setting of NPO
   - 100cc D5W for 1 liter
   - trend sodium Q8hr
   .
   # ARF: Creatinine was 1.7 at OSH on [**2-25**] but has been trending down to
   baseline to 1.2.  Urine lytes suggest intra-renal process with negative
   eosinophils.  Possible ATN in setting of relative hypotension due to GI
   bleed.  - trend creatinine
   - hold nephrotoxins
   - renally dose medication
   .
   # Thrombocytopenia: Pt reportedly with h/o thrombocytopenia; 114 today
   at OSH and 150 here; down to 135 this morning. Likely related to
   cirrhosis/splenic sequestration.
   - Trend platelet count
   - consider transfuse for <30 with active bleeding
   .
   # Hypothyroidism:
   - Cont levothyroxine
   .
   # Thyroid nodule: Continue outpatient monitoring
   .
   # FEN: No IVF, replete electrolytes, NPO for procedure
   # Prophylaxis: Pneumoboots
   # Access: PIV x 3 (22g x 1, 18g x 2)
   # Communication: Patient
   # Code:  Full (discussed with patient). HCP is wife, [**Name (NI) 4670**]
   ([**Telephone/Fax (1) 12579**]).
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-2-28**] 08:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-03-03 06:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2107-3-2**] 11:52 AM
 INVASIVE VENTILATION - START [**2107-3-2**] 03:20 PM
 BRONCHOSCOPY - At [**2107-3-2**] 05:04 PM
   - Patient went for TIPS.  Very difficult airway/intubation that
   required fiberoptic intubation.  Noted a large amount of thick
   secretions during intubation.  Underwent TIPS with moderate blood
   loss.  Briefly started on neosynephrine while in procedure, but able to
   be easily weaned once back in MICU.
   - Had bedside bronchoscopy to evaluated for thick secretions; saw only
   thin secretions though copious fresh blood around the vocal cords with
   edema.  Pt remained intubated for the night and will likely re-bronch
   in the morning prior to extubation.
   - had hypotension after starting propofol for sedation - started on
   neosynephrine and have been weaning as tolerated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2107-3-3**] 12:20 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Phenylephrine - 1.4 mcg/Kg/min
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2107-3-2**] 11:00 PM
   Pantoprazole (Protonix) - [**2107-3-3**] 12:45 AM
   Furosemide (Lasix) - [**2107-3-3**] 01:20 AM
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to obtain
   Flowsheet Data as of  [**2107-3-3**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.9
C (96.6
   HR: 52 (0 - 90) bpm
   BP: 125/49(65) {105/33(53) - 142/66(77)} mmHg
   RR: 25 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 73 Inch
             Total In:
                                                                  2,969 mL
                                                                  1,075 mL
   PO:
             TF:
   IVF:
                                                                  2,969 mL
                                                                  1,075 mL
   Blood products:
   Total out:
                                                                    905 mL
                                                                    395 mL
   Urine:
                                                                    755 mL
                                                                    395 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  2,064 mL
                                                                    680 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 515 (515 - 3,396) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: ///25/
   Ve: 7.7 L/min
   Physical Examination
   General: intubated and sedated
   HEENT: Sclera anicteric, MM dry, oropharynx with evidence of small
   amount of blood
   Neck: Supple, JVP difficult to assess
   Lungs: unlabored respirations, bibasilar crackles
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Soft, NTND, positive bowel sounds
   GU: foley in place
   Ext: Warm, well perfused, 2+ pulses, 2+ BLE edema to knees
   Skin: No jaundice, spider angiomas, or palmar erythema.
   Neuro: intubated/sedated
   Labs / Radiology
   241 K/uL
   9.6 g/dL
   216 mg/dL
   1.6 mg/dL
   25 mEq/L
   3.9 mEq/L
   33 mg/dL
   106 mEq/L
   140 mEq/L
   29.5 %
   26.9 K/uL
        [image002.jpg]
                             [**2107-2-28**]  09:29 PM
                             [**2107-3-1**]  03:44 AM
                             [**2107-3-1**]  10:24 AM
                             [**2107-3-1**]  03:19 PM
                             [**2107-3-1**]  08:30 PM
                             [**2107-3-2**]  01:45 AM
                             [**2107-3-2**]  07:53 AM
                             [**2107-3-2**]  03:24 PM
                             [**2107-3-2**]  09:48 PM
                             [**2107-3-3**]  03:26 AM
   WBC
   7.4
   6.8
   9.1
   26.9
   Hct
   32.6
   30.4
   33.0
   30.0
   31.9
   31.2
   31.8
   31.1
   29.3
   29.5
   Plt
   150
   135
   180
   241
   Cr
   1.4
   1.4
   1.2
   1.4
   1.6
   Glucose
   106
   104
   109
   110
   216
   Other labs: PT / PTT / INR:18.8/36.5/1.7, ALT / AST:28/37, Alk Phos / T
   Bili:95/0.7, Differential-Neuts:71.0 %, Band:0.0 %, Lymph:19.0 %,
   Mono:5.0 %, Eos:4.0 %, Fibrinogen:316 mg/dL, Albumin:2.8 g/dL, LDH:390
   IU/L, Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   [**3-3**] CXR - pending
   Assessment and Plan
   81M with cirrhosis, esophageal and gastric varices with recurrent
   variceal bleed now s/p TIPS on [**3-2**].
   # Upper GI Bleed:  Patient with BRBPR and hematemesis, EGD on [**2-18**] and
   [**2-28**] found to have grade III esophageal varices and gastric varices,
   latter of which were thought to be source of bleeding.  Since transfer
   has had intermittent maroon stools and last night episode of BRBPR
   (150cc) with positive NGT lavage concerning for upper GI bleed. He has
   remained hemodynamically stable with stable hematocrit in the low
   thirties.  Discussed with liver and IR, patient is now s/p TIPS
   procedure.
   - NPO for now
   - 2 large bore PIV (18), PICC
   - active type and screen, crossmatch for 4 units
   - Monitor HCT Q8hr and transfuse for HCT drop >5 or HCT <25
   - Octreotide gtt
   - IV PPI [**Hospital1 **]
   - continue ceftriaxone for prophylaxis in setting of GI bleed (no
   course yet set)
   - continue to hold nadolol in setting of active GI bleed
   - Hepatology recs
   .
   # Respiratory Failure
 patient required intubation for TIPS procedure
   and proved to be a difficult airway requiring fiberoptic intubation.
   Patient likely will be easily weaned from the vent, however, a bedside
   bronchoscopy performed on [**3-2**] revealed fresh blood and edema around
   the vocal cords likely from traumatic intubation attempts.
   - SBT this morning; will attempt extubation today
   .
   # Liver cirrhosis:  Patient without history of ascites, jaundice, or
   hepatic encephalopathy but with evidence of portal hypertension given
   gastric and esophageal varices.  Mildly impaired synthetic function
   with elevated INR and low albumin (MELD 13).  Potential etiologies
   include alcoholic, auto-immune, hemochromatosis, primary biliary
   cirrhosis, [**Last Name (un) 12611**]
s disease.  Elevated AFP could be concerning for
   malignancy although no evidence of mass on ultrasound.
   - hepatitis B/C serologies negative
   - f/u ceruloplasmin
   - f/u liver recs
   - concerning increased AFP; consider additional imaging with CT when
   patient stable.
   .
   #Shortness of breath:  Likely multifactorial.  Patient with peripheral
   edema in setting of hypoalbuminemia, bibasilar crackles, mild pulmonary
   edema on imaging consistent with volume overload.  Possible upper
   airway obstruction with questionable stridor and dysphonia following
   recent intubation, very dry mouth as NPO. Also history of COPD that
   maybe contributing to poor baseline. Anemia may also be contributing.
   No evidence of infectious process as afebrile, normal white count, no
   infiltrate on imaging.
   - continue ipratropium nebs prn
   -continue albuterol nebs prn
   -humidified O2/ice chips with improvement of hoarseness
   -consider ENT evaluation if hoarseness persists
   - cautious use of diuretics in setting of GI bleed; re-evaluate volume
   status/oxygen requirement
   .
   #Hypernatremia:  Sodium elevated to 147 this AM (now 140) likely due to
   decreased access to free water in setting of NPO
   - 100cc D5W for 1 liter
   - trend sodium Q8hr
   .
   # ARF: Creatinine was 1.7 at OSH on [**2-25**] but has been trending down to
   baseline to 1.2 until contrast load [**3-2**], now increased again to 1.6.
   Urine lytes suggest intra-renal process with negative eosinophils.
   Likely contrast nephropathy due to increased dye load in TIPS
   procedure.
   - hold nephrotoxins
   - renally dose medication
   - continue IVF, monitor UOP
   - Restart Lasix
   - trend creatinine [**Hospital1 **]
   .
   # Increased WBC on [**3-3**]. Possible infectious etiology.
   - Added on diff to CBC
   - Follow-up cultures (blood, sputum, urine)
   - Monitor clinical status closely and trend WBC, fever curve
   .
   # Thrombocytopenia: Pt reportedly with h/o thrombocytopenia; 114 today
   at OSH and 150 here; now improved to 241. Likely related to
   cirrhosis/splenic sequestration.
   - Trend platelet count
   - consider transfuse for <30 with active bleeding
   .
   # Hypothyroidism:
   - Cont levothyroxine
   .
   # Thyroid nodule: Continue outpatient monitoring
   .
   # FEN:  IVF, replete electrolytes, NPO
   # Prophylaxis: Pneumoboots
   # Access: PIV, PICC
   # Communication: Patient
   # Code:  Full (discussed with patient). HCP is wife, [**Name (NI) 4670**]
   ([**Telephone/Fax (1) 12579**]).
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-2-28**] 08:45 PM
   PICC Line - [**2107-3-2**] 11:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-03-03 09:12:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81 yo man with cirrhosis, s/p TIPS, intubated during procedure.
   Required low dose neo in setting
   of sedation overnight.  o/p with some old clotted blood.
   24 Hour Events:
 PICC LINE - START [**2107-3-2**] 11:52 AM
 INVASIVE VENTILATION - START [**2107-3-2**] 03:20 PM
 BRONCHOSCOPY - At [**2107-3-2**] 05:04 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2107-3-3**] 12:20 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Phenylephrine - 1.4 mcg/Kg/min
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Propofol - [**2107-3-2**] 11:00 PM
   Pantoprazole (Protonix) - [**2107-3-3**] 12:45 AM
   Furosemide (Lasix) - [**2107-3-3**] 01:20 AM
   Other medications:
   levoxyl
   spiriva
   neo
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-3-3**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 53 (0 - 90) bpm
   BP: 125/43(62) {105/33(53) - 142/66(77)} mmHg
   RR: 27 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 73 Inch
             Total In:
                                                                  2,969 mL
                                                                  1,293 mL
   PO:
             TF:
   IVF:
                                                                  2,969 mL
                                                                  1,293 mL
   Blood products:
   Total out:
                                                                    905 mL
                                                                    500 mL
   Urine:
                                                                    755 mL
                                                                    500 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  2,064 mL
                                                                    793 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 487 (487 - 3,396) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///25/
   Ve: 14.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   241 K/uL
   216 mg/dL
   1.6 mg/dL
   25 mEq/L
   3.9 mEq/L
   33 mg/dL
   106 mEq/L
   140 mEq/L
   29.5 %
   26.9 K/uL
        [image002.jpg]
                             [**2107-2-28**]  09:29 PM
                             [**2107-3-1**]  03:44 AM
                             [**2107-3-1**]  10:24 AM
                             [**2107-3-1**]  03:19 PM
                             [**2107-3-1**]  08:30 PM
                             [**2107-3-2**]  01:45 AM
                             [**2107-3-2**]  07:53 AM
                             [**2107-3-2**]  03:24 PM
                             [**2107-3-2**]  09:48 PM
                             [**2107-3-3**]  03:26 AM
   WBC
   7.4
   6.8
   9.1
   26.9
   Hct
   32.6
   30.4
   33.0
   30.0
   31.9
   31.2
   31.8
   31.1
   29.3
   29.5
   Plt
   150
   135
   180
   241
   Cr
   1.4
   1.4
   1.2
   1.4
   1.6
   Glucose
   106
   104
   109
   110
   216
   Other labs: PT / PTT / INR:18.8/36.5/1.7, ALT / AST:28/37, Alk Phos / T
   Bili:95/0.7, Differential-Neuts:71.0 %, Band:0.0 %, Lymph:19.0 %,
   Mono:5.0 %, Eos:4.0 %, Fibrinogen:316 mg/dL, Albumin:2.8 g/dL, LDH:390
   IU/L, Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITHOUT ACUTE EXACERBATION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   Respiratory failure:  Looks good on SBT this morning.   Will try and
   extubate
   Cirrhosis/Variceal bleed:  no further bleed.
   Acute on chronic Renal failure:  Creatinine slightly higher today in
   setting of dye load.  Is grossly fluid overloaded so will give some
   lasix.
   leukocytosis:  will check cultures.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-2-28**] 08:45 PM
   PICC Line - [**2107-3-2**] 11:52 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2107-03-04 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2107-3-3**] 08:00 AM
 URINE CULTURE - At [**2107-3-3**] 08:00 AM
 INVASIVE VENTILATION - STOP [**2107-3-3**] 10:45 AM
   - Liver: d/c octreotide, get RUQ U/S on [**3-4**] to assess TIPS patency
   (ordered), re-check LFTs
   - Extubated in AM
   - L arm erythematous; pt afebrile but will broaden Abx if spikes
   - Remains confused
   Allergies: No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2107-3-4**] 12:27 AM
   Other ICU medications:
   Furosemide (Lasix) - [**2107-3-3**] 7:00PM
   Pantoprazole (Protonix) - [**2107-3-4**] 12:27 AM
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged
   Flowsheet Data as of  [**2107-3-4**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 78 (51 - 82) bpm
   BP: 130/46(67) {110/31(51) - 149/58(70)} mmHg
   RR: 22 (21 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  1,517 mL
                                                                    130 mL
   PO:
             TF:
   IVF:
                                                                  1,517 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  1,810 mL
                                                                    310 mL
   Urine:
                                                                  1,810 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -293 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 499 (499 - 499) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 6 cmH2O
   SpO2: 95%
   ABG: 7.44/41/76.[**Numeric Identifier 299**]/26/3
   Ve: 13.4 L/min
   PaO2 / FiO2: 152
   Physical Examination
   General: NAD
   HEENT: Sclera anicteric, MM dry, oropharynx with evidence of small
   amount of blood
   Neck: Supple, JVP difficult to assess
   Lungs: unlabored respirations, bibasilar crackles
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Soft, NTND, positive bowel sounds
   GU: foley in place
   Ext: Warm, well perfused, 2+ pulses, 1+ BLE edema to knees
   Skin: No jaundice, spider angiomas, or palmar erythema.  LUE with
   marked erythema of lateral forearm. + warmth
   Neuro: A + O x 1 (person only/
[**Hospital 680**] hospital
   Labs / Radiology
   129 K/uL
   8.8 g/dL
   120 mg/dL
   1.4 mg/dL
   26 mEq/L
   3.5 mEq/L
   32 mg/dL
   111 mEq/L
   145 mEq/L
   27.0 %
   10.7 K/uL
        [image002.jpg]
                             [**2107-3-1**]  08:30 PM
                             [**2107-3-2**]  01:45 AM
                             [**2107-3-2**]  07:53 AM
                             [**2107-3-2**]  03:24 PM
                             [**2107-3-2**]  09:48 PM
                             [**2107-3-3**]  03:26 AM
                             [**2107-3-3**]  10:14 AM
                             [**2107-3-3**]  12:23 PM
                             [**2107-3-3**]  10:03 PM
                             [**2107-3-4**]  02:42 AM
   WBC
   9.1
   26.9
   10.7
   Hct
   31.9
   31.2
   31.8
   31.1
   29.3
   29.5
   30.1
   27.5
   27.0
   Plt
   180
   241
   129
   Cr
   1.2
   1.4
   1.6
   1.5
   1.4
   TCO2
   29
   Glucose
   109
   110
   216
   120
   Other labs: PT / PTT / INR:17.8/31.4/1.6, ALT / AST:[**Telephone/Fax (1) 12667**], Alk Phos
   / T Bili:115/1.1, Differential-Neuts:91.0 %, Band:0.0 %, Lymph:4.0 %,
   Mono:4.0 %, Eos:1.0 %, Fibrinogen:316 mg/dL, Albumin:2.1 g/dL, LDH:863
   IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   81M with cirrhosis, esophageal and gastric varices with recurrent
   variceal bleed now s/p TIPS on [**3-2**].
   # Upper GI Bleed:  Patient with BRBPR and hematemesis, EGD on [**2-18**] and
   [**2-28**] found to have grade III esophageal varices and gastric varices,
   latter of which were thought to be source of bleeding.  Since transfer
   has had intermittent maroon stools and 3 nights ago episode of BRBPR
   (150cc) with positive NGT lavage concerning for upper GI bleed. He has
   remained hemodynamically stable with slowly downtrending hematocrit.
   Discussed with liver and IR, patient is now s/p TIPS procedure.
   - Advance diet as tolerated (sips)
   - 2 large bore PIV (18), PICC
   - active type and screen, crossmatch for 4 units
   - Monitor HCT [**Hospital1 **] and transfuse for HCT drop >5 or HCT <25
   - d/c Octreotide gtt
   - IV PPI [**Hospital1 **]
   - continue ceftriaxone for prophylaxis in setting of GI bleed (day 1 =
   [**2-28**] for empiric 5 day course to end [**3-5**])
   - continue to hold nadolol in setting of active GI bleed
   - f/u Hepatology recs
   .
   # Respiratory Failure
 patient required intubation for TIPS procedure
   and proved to be a difficult airway requiring fiberoptic intubation.
   Patient likely will be easily weaned from the vent, however, a bedside
   bronchoscopy performed on [**3-2**] revealed fresh blood and edema around
   the vocal cords likely from traumatic intubation attempts.
   - patient successfully extubated [**2107-3-3**] now on face tent for
   humidification and oxygenation
   .
   # Liver cirrhosis:  Patient without history of ascites, jaundice, or
   hepatic encephalopathy but with evidence of portal hypertension given
   gastric and esophageal varices.  Mildly impaired synthetic function
   with elevated INR and low albumin (MELD 13).  Potential etiologies
   include alcoholic, auto-immune, hemochromatosis, primary biliary
   cirrhosis, [**Last Name (un) 12611**]
s disease.  Elevated AFP could be concerning for
   malignancy although no evidence of mass on ultrasound.
   - hepatitis B/C serologies negative
   - f/u ceruloplasmin
   - Start lactulose
   - f/u liver recs
   - concerning increased AFP; consider additional imaging with CT when
   patient stable.
   - RUQ ultrasound today to assess TIPS patency
   - marked transaminitis noted [**3-3**] likely due to TIPS procedure and/or
   shock liver.  Monitor LFTs daily; follow-up with liver team.
   .
   #Shortness of breath:  Likely multifactorial.  Patient with peripheral
   edema in setting of hypoalbuminemia, bibasilar crackles, mild pulmonary
   edema on imaging consistent with volume overload.  Possible upper
   airway obstruction with questionable stridor and dysphonia following
   recent intubation, very dry mouth as NPO. Also history of COPD that
   maybe contributing to poor baseline. Anemia may also be contributing.
   No evidence of infectious process as afebrile, normal white count, no
   infiltrate on imaging.
   - continue ipratropium nebs prn
   -continue albuterol nebs prn
   -consider ENT evaluation if hoarseness persists
   - cautious use of diuretics in setting of GI bleed; re-evaluate volume
   status/oxygen requirement
   .
   #Hypernatremia:  Sodium elevated to 145 this AM (now 140) likely due to
   decreased access to free water in setting of NPO
   - trend sodium [**Hospital1 **]
   .
   # ARF: Creatinine was 1.7 at OSH on [**2-25**] but has been trending down to
   baseline to 1.2 until contrast load [**3-2**], increased to peak of 1.6, now
   downtrending.  Urine lytes suggest intra-renal process with negative
   eosinophils.  Likely contrast nephropathy due to increased dye load in
   TIPS procedure.
   - hold nephrotoxins
   - renally dose medication
   - continue IVF, monitor UOP
   - Lasix as tolerated
   - trend creatinine daily
   .
   # Increased WBC on [**3-3**] to 27 now returned to 10. ? Possible infectious
   etiology.
   - Added on diff to CBC
   - Follow-up cultures (blood, sputum, urine)
   - Monitor clinical status closely and trend WBC, fever curve
   .
   # Thrombocytopenia: Pt reportedly with h/o thrombocytopenia; 114 today
   at OSH and 150 here; now 129. Likely related to cirrhosis/splenic
   sequestration.
   - Trend platelet count daily
   - consider transfuse for <30 with active bleeding
   .
   # Hypothyroidism:
   - Cont levothyroxine
   .
   # Thyroid nodule: Continue outpatient monitoring
   .
   # FEN:  IVF, replete electrolytes, ADAT
   # Prophylaxis: Pneumoboots
   # Access: PICC
   # Communication: Patient
   # Code:  Full (discussed with patient). HCP is wife, [**Name (NI) 4670**]
   ([**Telephone/Fax (1) 12579**]).
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-3-2**] 11:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-03-04 12:28:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81 yo man with variceal bleed, s/p tips.  Has been well, but confused.
   24 Hour Events:
 BLOOD CULTURED - At [**2107-3-3**] 08:00 AM
 URINE CULTURE - At [**2107-3-3**] 08:00 AM
 INVASIVE VENTILATION - STOP [**2107-3-3**] 10:45 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2107-3-4**] 12:27 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2107-3-3**] 07:00 PM
   Pantoprazole (Protonix) - [**2107-3-4**] 12:27 AM
   Other medications:
   levoxyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2107-3-4**] 12:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.5
   HR: 83 (60 - 83) bpm
   BP: 145/58(76) {110/32(55) - 149/58(76)} mmHg
   RR: 25 (21 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  1,517 mL
                                                                    178 mL
   PO:
             TF:
   IVF:
                                                                  1,517 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  1,810 mL
                                                                    535 mL
   Urine:
                                                                  1,810 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -293 mL
                                                                   -357 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar crackles that
   clear with inpiration)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, +asteriskis
   Labs / Radiology
   8.8 g/dL
   129 K/uL
   120 mg/dL
   1.4 mg/dL
   26 mEq/L
   3.5 mEq/L
   32 mg/dL
   111 mEq/L
   145 mEq/L
   27.0 %
   10.7 K/uL
        [image002.jpg]
                             [**2107-3-1**]  08:30 PM
                             [**2107-3-2**]  01:45 AM
                             [**2107-3-2**]  07:53 AM
                             [**2107-3-2**]  03:24 PM
                             [**2107-3-2**]  09:48 PM
                             [**2107-3-3**]  03:26 AM
                             [**2107-3-3**]  10:14 AM
                             [**2107-3-3**]  12:23 PM
                             [**2107-3-3**]  10:03 PM
                             [**2107-3-4**]  02:42 AM
   WBC
   9.1
   26.9
   10.7
   Hct
   31.9
   31.2
   31.8
   31.1
   29.3
   29.5
   30.1
   27.5
   27.0
   Plt
   180
   241
   129
   Cr
   1.2
   1.4
   1.6
   1.5
   1.4
   TCO2
   29
   Glucose
   109
   110
   216
   120
   Other labs: PT / PTT / INR:17.8/31.4/1.6, ALT / AST:[**Telephone/Fax (1) 12667**], Alk Phos
   / T Bili:115/1.1, Differential-Neuts:91.0 %, Band:0.0 %, Lymph:4.0 %,
   Mono:4.0 %, Eos:1.0 %, Fibrinogen:316 mg/dL, Albumin:2.1 g/dL, LDH:863
   IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 CIRRHOSIS OF LIVER, ALCOHOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITHOUT ACUTE EXACERBATION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   Variceal bleed:  stable
   increased LFTs today:  may be due to HOTN during procedure, will d/w
   hepatology.
   mild asteriskis:  start lactulose
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-3-2**] 11:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes